US07816344B2
To a solution of 3-(nitromethyl)benzo[c][1,2]oxaborol-1(3H)-ol (965 mg, 5 mmol) in ethanol (30 mL) were added ammonia (2M solution in ethanol, 18 mL, 36 mmol) and Raney 2800 Nickel (⅓ teaspoon of a slurry in water). The reaction mixture was subjected to hydrogenation at 45 atmospheres for 2 h at rt. The resulting mixture was filtered through Celite and the filtrate was concentrated in vacuo yielding the crude amine. The amine was dissolved in dioxanes (10 mL) and HCl (4M in dioxanes, 5 mL, 20 mmol) was added. After 1 h, the suspension was concentrated and the resulting solid was washed with hexanes followed by ether yielding 3-(aminomethyl)benzo[c][1,2]oxaborol-1(3H)-ol hydrochloride (917 mg, 4.6 mmol, 92% yield) as a white solid.

reactant | 3-(nitromethyl)benzo[c][1,2]oxaborol-1(3H)-ol | 5 mmol, 965 mg | [N+](=O)([O-])CC1C2=C(B(O1)O)C=CC=C2 | C8H8BNO4
reactant | ammonia | 36 mmol, 2M, 18 mL | N | H3N
reactant | HCl | 20 mmol, 4M, 5 mL | Cl | ClH
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | water | O | H2O
catalyst | Nickel | [Ni] | Ni
product | 3-(aminomethyl)benzo[c][1,2]oxaborol-1(3H)-ol hydrochloride | 4.6 mmol, 917 mg, 92% yield | Cl.NCC1C2=C(B(O1)O)C=CC=C2 | InChI=1S/C8H10BNO2.ClH/c10-5-8-6-3-1-2-4-7(6)9(11)12-8;/h1-4,8,11H,5,10H2;1H
